US04268510
Powdered 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carbonyl chloride (5.0 g.) was stirred while a solution of n-propylamine (5 ml) in methanol (100 ml.) was added, the resulting solution was stirred for 30 minutes, and the solvent was evaporated under reduced pressure to give a sticky solid residue. The residue was triturated with water and the resulting suspension was stirred for 30 minutes and filtered. The solid product was washed with water, dried and crystallised from ethanol to give 3,4-dihydro-4-oxo-N-propyl-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carboxamide, m.p. 228°-230° C.

reactant | 3,4-dihydro-4-oxo-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carbonyl chloride | 5.0 g | O=C1NC(OC2=C1C=C(C=C2)C(=O)Cl)C(Cl)(Cl)Cl | C10H5Cl4NO3
reactant | n-propylamine | 5 ml | C(CC)N | C3H9N
solvent | methanol | 100 ml | CO | CH4O
product | 3,4-dihydro-4-oxo-N-propyl-2-trichloromethyl-2H-benzo[e]-[1,3]-oxazine-6-carboxamide | O=C1NC(OC2=C1C=C(C=C2)C(=O)NCCC)C(Cl)(Cl)Cl | C13H13Cl3N2O3
